US06133271
With the procedure of Example 1, the reaction of 3-nitrobenzylamine with 4-chloro-2-(pyridin-2-yl)-6-ethyl-thieno-[2,3-d]-pyrimidine yields 2-(pyridin-2-yl)-4-(3-nitrobenzylamino)-6-ethyl-thieno-[2,3-d]-pyrimidine.

reactant | 3-nitrobenzylamine | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | 4-chloro-2-(pyridin-2-yl)-6-ethyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=NC=CC=C1)SC(=C2)CC | C13H10ClN3S
product | 2-(pyridin-2-yl)-4-(3-nitrobenzylamino)-6-ethyl-thieno-[2,3-d]-pyrimidine | N1=C(C=CC=C1)C=1N=C(C2=C(N1)SC(=C2)CC)NCC2=CC(=CC=C2)[N+](=O)[O-] | C20H17N5O2S
